US08349865B2
Step 3: 9H-Fluoren-9-ylmethyl(2,4-dimethyl-5-{[(pyridin-3-ylmethyl)amino]sulfonyl}phenyl)carbamate
To a solution of 9H-fluoren-9-ylmethyl[5-(chlorosulfonyl)-2,4-dimethylphenyl]carbamate (1.0 g, 2.3 mmol) in CH2Cl2 (23 mL) was added 1-pyridin-3-ylmethanamine (0.46 mL, 4.5 mmol) and pyridine (0.55 mL, 6.8 mmol). The bright yellow solution was then stirred at room temperature overnight and then quenched by the addition of sat. aq. NaHCO3 solution. The reaction was extracted with EtOAc and the organic extracted were dried over Na2SO4 and concentrated in vacuo. Purification by silica gel column chromatography (0-5% MeOH/DCM) afforded the title compound.

reactant | 9H-fluoren-9-ylmethyl[5-(chlorosulfonyl)-2,4-dimethylphenyl]carbamate | 2.3 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1=C(C=C(C(=C1)S(=O)(=O)Cl)C)C)=O | C23H20ClNO4S
reactant | 1-pyridin-3-ylmethanamine | 4.5 mmol, 0.46 mL | N1=CC(=CC=C1)CN | C6H8N2
reactant | pyridine | 6.8 mmol, 0.55 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 23 mL | C(Cl)Cl | CH2Cl2
product | 9H-Fluoren-9-ylmethyl(2,4-dimethyl-5-{[(pyridin-3-ylmethyl)amino]sulfonyl}phenyl)carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1=C(C=C(C(=C1)S(=O)(=O)NCC=1C=NC=CC1)C)C)=O | C29H27N3O4S
